Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-4.578235097169999
[O:1]=[C:2]=[C:3]([H:4])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:5][H:6]>>[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.99955222423
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][H:9]>>[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][H:9].[O:1]=[C:2],-1.8297266208200005
[O:1]=[C:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]=[C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.1871263782700003
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1],4.15340974358
[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-6.06690931618
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:4],2.06327452627
[C:3]#[C:4][H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2]([C:3]#[C:4][H:5])[C:6]([H:7])([H:8])[H:9],-5.14842981876
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][C:11]([H:12])([H:13])[H:14].[H:9],1.86595598051
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.98194281888
[C:1]#[C:2][C:3]([O:5][H:6])[O:7][H:8].[H:4]>>[C:1]#[C:2][C:3]([H:4])([O:5][H:6])[O:7][H:8],-1.52602707848
[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.97062933798
[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9]\[C:11]([H:12])([H:13])[H:14],4.96680465232
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:4],4.75800637222
[H:1][C:2][O:3][C:4][O:5][C:6][H:7].[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],-4.68568754809
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:9][H:10]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])[O:9][H:10],0.947871986788
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][O:9][H:10]>>[C:8][O:9][H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7],7.1497534609
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[H:1],3.96609846243
[H:12].[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10][H:11]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-4.02921404187
[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10].[H:11]>>[C:1]#[C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.713928587330001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:4][C:8]([H:9])([H:10])[H:11].[H:1][C:6]([H:3])=[C:7][H:5],6.20435895941
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13],-1.65665362768
[C:4]#[C:5][O:6][H:7].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]#[C:5][O:6][H:7],-1.177480717
[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.44014699117
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14],4.79374390605
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][O:7]>>[C:1]/[C:2]([H:3])=[C:4](\[H:5])[O:6][O:7],-4.3399579181400005
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:9]([O:8])([H:10])[H:11]>>[O:1]=[C:2][C@:3]1([C:4]([H:5])([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-0.2777521036499999
[C:5]([H:6])[H:7].[H:1][C:4]([C:2])([H:3])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-7.65794811746
[H:15].[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.05651693346
[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-3.99057172899
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13],1.93573802977
